US05929117
3',4'-Diethyl-3,4-dimethoxybenzophenone was prepared analogously to 3,4-diethylbenzophenone using diethylbenzene (2.5 mL, 15 mmol), aluminum chloride (2.2 g, 16.5 mmol) and 3,4-dimethoxybenzoyl chloride (3 g, 15 mmol) with a reaction time of 3 hours at reflux. The crude product was purified by flash column chromatography (silica gel, 1.5% ethyl acetate/hexane) to afford 0.84 g (20%) of the product as an orange solid: mp 60-61° C.; 1H NMR (CDCl3) δ 7.74-7.15 (m, 5H), 7.00-6.80 (m, 1H) 3.96 (s, 3H), 3.94 (s, 3H), 2.93-2.60 (m, 4H), 1.43-1.15 (m, 6H); 13C NMR (CDCl3) δ 195.5, 152.7, 148.8, 146.3, 141.7, 135.9, 130.6, 129.8, 128.0, 127.7, 125.1, 112.2, 109.7, 56.0, 25.6, 25.4, 15.1, 15.0; Anal. Calcd for C19H22O3. Theoretical: C, 76.48; H, 7.43. Found: C, 76.53; H, 7.34.

reactant | 3,4-diethylbenzophenone | C(C)C=1C=C(C(=O)C2=CC=CC=C2)C=CC1CC | C17H18O
reactant | diethylbenzene | 15 mmol, 2.5 mL | C(C)C1=C(C=CC=C1)CC | C10H14
reactant | aluminum chloride | 16.5 mmol, 2.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,4-dimethoxybenzoyl chloride | 15 mmol, 3 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
product | 3',4'-Diethyl-3,4-dimethoxybenzophenone | C(C)C=1C=C(C=CC1CC)C(C1=CC(=C(C=C1)OC)OC)=O | C19H22O3
